US05543406
A solution of 17β-hydroxymethyl-3β-hydroxy-6-t-butylcarboxy-6-azaandrost-4-ene (182 mg, 0.448 mmol), prepared in part A above, in methylene chloride (7 mL) is added to freshly prepared Collins' reagent. (CrO3 ·2 pyridine) in methylene chloride (12 mL) at 0° C. After 15 minutes the solvent is decanted from the tar, the tar is triturated with methylene chloride (2×30 mL), the combined methylene chloride washed with 2N NaOH, saturated aqueous NaHSO4, saturated aqueous NaCl, dried over MgSO4, concentrated and chromatographed on silica gel (50% ehtyl acetate/hexanes) to give crude 17β-formyl-6-t-butylcarboxy-6-azaandrost-4-en-3-one of sufficient purity to carry on to the following steps; yield: 125 mg (69%).

reactant | 17β-hydroxymethyl-3β-hydroxy-6-t-butylcarboxy-6-azaandrost-4-ene | 0.448 mmol, 182 mg | OC[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=C[C@H](CC[C@]3(C)[C@H]1CC2)O)C(C)(C)C | C24H39NO4
reactant | Collins' reagent | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
product | 17β-formyl-6-t-butylcarboxy-6-azaandrost-4-en-3-one | C(=O)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C24H35NO4
